US06706763B1
5-[2-Carbamoyl-2-(methylsulfinyl)ethyl]-2-methoxy-N-(4-trifluoromethylbenzyl)benzamide
To 639 mg of 5-[2-carbamoyl-2-(methylthio)ethyl]-2-methoxy-N-(4-trifluoromethylbenzyl)benzamide were added 70 ml of methylene chloride and 368 mg of mCPBA under cooling with ice, and the mixture was stirred for 3 hours. The reaction mixture was washed with saturated aqueous solution of sodium bicarbonate and saturated brine in sequence and dried over anhydrous sodium sulfate. Solvent was distilled off under reduced pressure, and the residue obtained was purified by means of column chromatography (silica gel, methylene chloride:methanol=50:1 to 20:1) to obtain 486 mg of aimed product as colorless crystals.

reactant | 5-[2-carbamoyl-2-(methylthio)ethyl]-2-methoxy-N-(4-trifluoromethylbenzyl)benzamide | 639 mg | C(N)(=O)C(CC=1C=CC(=C(C(=O)NCC2=CC=C(C=C2)C(F)(F)F)C1)OC)SC | C20H21F3N2O3S
reactant | mCPBA | 368 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
product | 5-[2-Carbamoyl-2-(methylsulfinyl)ethyl]-2-methoxy-N-(4-trifluoromethylbenzyl)benzamide | 486 mg | C(N)(=O)C(CC=1C=CC(=C(C(=O)NCC2=CC=C(C=C2)C(F)(F)F)C1)OC)S(=O)C | C20H21F3N2O4S
